US05317020
Ethyl N-[4-(4-benzylpiperidin-1-yl)-2-(3,4-dichlorophenyl)butyl]carbamate hydrochloride
9.8 g of 1-amino-4-(4-benzylpiperidin-1-yl)-2-(3,4-dichlorophenyl)butane dihydrochloride and 6.7 g of triethylamine are dissolved in 200 ml of methylene chloride. 2.28 g of ethyl chloroformate are added dropwise to this solution at room temperature and the reaction mixture is left to stand for one hour at room temperature, with stirring. The reaction mixture is concentrated under vacuum and the residue is taken up in ethyl acetate/water and washed successively with a 5% solution of sodium hydroxide, water and a saturated solution of sodium chloride. The organic phase is dried over Na2SO4 and concentrated under vacuum to give a residue, which is chromatographed on silica gel using a 94/6 methylene chloride/methanol mixture as the eluent. Concentration of the pure fractions gives a residue, which is taken up in ethyl acetate. A solution of hydrogen chloride in ether is added to the ethyl acetate solution and the hydrochloride is filtered off.

reactant | 1-amino-4-(4-benzylpiperidin-1-yl)-2-(3,4-dichlorophenyl)butane dihydrochloride | 9.8 g | Cl.Cl.NCC(CCN1CCC(CC1)CC1=CC=CC=C1)C1=CC(=C(C=C1)Cl)Cl
reactant | triethylamine | 6.7 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.28 g | ClC(=O)OCC | C3H5ClO2
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | Ethyl N-[4-(4-benzylpiperidin-1-yl)-2-(3,4-dichlorophenyl)butyl]carbamate hydrochloride | Cl.C(C1=CC=CC=C1)C1CCN(CC1)CCC(CNC(OCC)=O)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C25H32Cl2N2O2.ClH/c1-2-31-25(30)28-18-22(21-8-9-23(26)24(27)17-21)12-15-29-13-10-20(11-14-29)16-19-6-4-3-5-7-19;/h3-9,17,20,22H,2,10-16,18H2,1H3,(H,28,30);1H
